US08389511B2
Methyl 4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-2,7-dimethyl-3-oxo-2-[3-(trifluoromethyl)-phenyl]-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate (368.0 mg) was dissolved in 1,4-dioxane (5 ml), and thereto was added a 4N-aqueous sodium hydroxide solution (5 ml). The mixture was stirred at 60° C. for 2.5 hours, and cooled to room temperature. The mixture was concentrated under reduced pressure to remove 1,4-dioxane, and the residue was diluted with water, and the pH value thereof was adjusted to pH 1 with 3N-hydrochloric acid. The precipitated white solid was collected by filtration to give 4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-2,7-dimethyl-3-oxo-2-[3-(trifluoromethyl)phenyl]-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid (340.0 mg). This carboxylic acid was dissolved in DMF (5 ml), and thereto were added triethylamine (0.35 ml), dimethylaminopyridine (45.2 mg), tert-butyl (3R)-3-(isopropylamino)piperidine-1-carboxylate (665.1 mg), CIP reagent (583.6 mg), and the mixture was stirred at 60° C. under nitrogen atmosphere for 4 hours. To the mixture were added again triethylamine (0.26 ml), CIP reagent (351.0 mg), and the mixture was further stirred at 60° C. for 5 hours. The reaction solution was cooled to room temperature, diluted with water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure to give a crude product, which was purified by silica gel chromatography to give tert-butyl (3R)-3-[({4-(2-{[(benzyloxy)-carbonyl]amino}ethyl)-2,7-dimethyl-3-oxo-2-[3-(trifluoromethyl)phenyl]-3,4-dihydro-2H-1,4-benzoxazin-6-yl}carbonyl)(isopropyl)amino]piperidine-1-carboxylate (314.5 mg). Subsequently, this product was dissolved in ethyl acetate (10 ml), and thereto were added 10% palladium carbon (362.7 mg) and propionic anhydride (116.1 mg), and the mixture was vigorously stirred under hydrogen atmosphere for 4 hours. The mixture was filtered on celite to remove palladium carbon, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography to give the title compound (259.6 mg).

reactant | Methyl 4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-2,7-dimethyl-3-oxo-2-[3-(trifluoromethyl)-phenyl]-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 368.0 mg | C(C1=CC=CC=C1)OC(=O)NCCN1C(C(OC2=C1C=C(C(=C2)C)C(=O)OC)(C2=CC(=CC=C2)C(F)(F)F)C)=O | C29H27F3N2O6
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-2,7-dimethyl-3-oxo-2-[3-(trifluoromethyl)phenyl]-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid | 340.0 mg | C(C1=CC=CC=C1)OC(=O)NCCN1C(C(OC2=C1C=C(C(=C2)C)C(=O)O)(C2=CC(=CC=C2)C(F)(F)F)C)=O | C28H25F3N2O6
